US03954764
24.5 G. of 1-carbethoxy-4-(2-chloro-8-fluoro-10,11-dihydro-dibenzo[b,f]thiepin-10-yl)-piperazine, 350 ml. of ethyleneglycol, 19 g. of potassium hydroxide and 1.5 ml. of water are heated together at 160° for 1 hours. The reaction mixture is poured over water and extracted with chloroform. The organic phase is washed with water, dried over magnesium sulfate and evaporated under reduced pressure, whereby there is obtained 1-(2-chloro-8-fluoro-10,11-dihydro-dibenzo-[b,f]thiepin-10-yl)-piperazine as a thick oil.

reactant | 1-carbethoxy-4-(2-chloro-8-fluoro-10,11-dihydro-dibenzo[b,f]thiepin-10-yl)-piperazine | C(=O)(OCC)N1CCN(CC1)C1CC2=C(SC3=C1C=C(C=C3)F)C=CC(=C2)Cl | C21H22ClFN2O2S
reactant | ethyleneglycol | C(CO)O | C2H6O2
reactant | potassium hydroxide | [OH-].[K+]
solvent | water | O | H2O
product | 1-(2-chloro-8-fluoro-10,11-dihydro-dibenzo-[b,f]thiepin-10-yl)-piperazine | ClC1=CC2=C(SC3=C(C(C2)N2CCNCC2)C=C(C=C3)F)C=C1 | C18H18ClFN2S
